US07713994B2
(Z)-Diethyl 5-(((6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methylamino)methyl)benzo[d][1,3]dioxole-2,2-dicarboxylate
A mixture of (Z)-6-bromo-4-((3,4-dihydroxybenzylamino)methylene)isoquinoline-1,3(2H,4H)-dione (195 mg, 0.50 mmole), dimethylformamide (5 mL), potassium carbonate (415 mg, 3.0 mmole) and diethyl 2,2-dibromomalonate (159 mg, 0.50 mmole) is stirred at room temperature overnight. The reaction mixture is filtered and washed with dimethylformamide, the filtrate is evaporated dissolved in 2% methanol in chloroform and passed through a pad of Florisil. The eluate is evaporated to give a beige solid, 114 mg, (41%), mp 222-3° C.; MS (ES+): m/z 545.1 (M+H).

reactant | (Z)-6-bromo-4-((3,4-dihydroxybenzylamino)methylene)isoquinoline-1,3(2H,4H)-dione | 0.50 mmole, 195 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)O)O | C17H13BrN2O4
reactant | potassium carbonate | 3.0 mmole, 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl 2,2-dibromomalonate | 0.50 mmole, 159 mg | BrC(C(=O)OCC)(C(=O)OCC)Br | C7H10Br2O4
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (Z)-Diethyl 5-(((6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methylamino)methyl)benzo[d][1,3]dioxole-2,2-dicarboxylate | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC2=C(OC(O2)(C(=O)OCC)C(=O)OCC)C=C1 | C24H21BrN2O8
